US06544976B1
(2S)-1-(1,2-Dioxo-3,3-dimethylpentyl)2-(1-[3-(3-pyridyl)-1-propyl]-1H-tetrazol-5-yl)azetidine
(2S)-1-(1,2-Dioxo-2-methoxyethyl)-2-(1-[3-(3-pyridyl)-1-propyl]-1H-tetrazol-5-yl)azetidine from Reference Example 19 (95.8 mg, 0.290 mmol, 1.0 eq) was dissolved in dry tetrahydrofuran (THF) (1.0 mL) and cooled to about −78° C. under an argon atmosphere. To this solution, 1,1-dimethylpropylmagnesium chloride in THF (380 μL of 1M, 0.380 mmol, 1.3 eq) was introduced via syringe. After stirring the resulting homogeneous mixture at about −78° C. for about 3 hours, the mixture was poured into saturated ammonium chloride and extracted into ethyl acetate. The organic phase was washed with water, dried over sodium sulfate and concentrated. Flash chromatography of the residue (0-10% methanol in dichloromethane) afforded 8.7 mg (8% yield) of the product as a colorless semisolid along with 30.3 mg recovered starting material (32% yield). 1H NMR (CDCl3) δ 0.78 (t, 3H, J=6.9); 0.97-1.18 (series of s, 6H); 1.54 and 3.17 (series of m, 8H); 3.82-4.66 (series of m, 4H); 5.33-5.90 (series of dd, 1H); 7.21-7.31 (m, 1H); 7.57 (d, 1H, J=7.7); 8.49 (s, 2H).

reactant | (2S)-1-(1,2-Dioxo-2-methoxyethyl)-2-(1-[3-(3-pyridyl)-1-propyl]-1H-tetrazol-5-yl)azetidine | O=C(C(OC)=O)N1[C@@H](CC1)C1=NN=NN1CCCC=1C=NC=CC1 | C15H18N6O3
reactant | 1,1-dimethylpropylmagnesium chloride | CC(CC)(C)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | 0.380 mmol, 1M, 380 μL, 1.3 eq | O1CCCC1 | C4H8O
product | (2S)-1-(1,2-Dioxo-3,3-dimethylpentyl)2-(1-[3-(3-pyridyl)-1-propyl]-1H-tetrazol-5-yl)azetidine | 8.7 mg, 8% yield | O=C(C(C(CC)(C)C)=O)N1[C@@H](CC1)C1=NN=NN1CCCC=1C=NC=CC1 | C19H26N6O2
